US07632840B2
4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-(methylsulfonyl)piperidine-4-carboxamide
Methanesulfonyl chloride (7.5 μl, 0.094 mmol) was added to a stirred solution of 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-4-carboxamide hydrochloride (0.05 g, 0.085 mmol) and triethylamine (53 μl, 0.38 mmol) in dichloromethane (1 ml) at room temperature. The reaction mixture was stirred at room temperature for 1 hour, concentrated and purified by preparative LCMS (standard basic system) to give the title product (0.0107 g, 23%) as a white solid; 1H NMR Spectrum: (DMSO-d6) 1.98 (m, 2H), 2.22 (m, 2H), 2.36 (s, 3H), 2.84 (s, 3H), 2.96 (m, 2H), 3.44 (m, 2H), 3.66 (s, 2H), 3.98 (s, 3H), 7.19 (s, 1H), 7.26-7.30 (m, 3H), 7.52-7.53 (m, 2H), 8.33 (s, 1H), 8.42 (s, 1H), 9.70 (s, 1H); Mass Spectrum: (M+H)+ 551.

reactant | Methanesulfonyl chloride | 0.094 mmol, 7.5 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-4-carboxamide hydrochloride | 0.085 mmol, 0.05 g | Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CCNCC1)C(=O)N)C)OC)F
reactant | triethylamine | 0.38 mmol, 53 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-(methylsulfonyl)piperidine-4-carboxamide | 0.0107 g, 23% | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CCN(CC1)S(=O)(=O)C)C(=O)N)C)OC)F | C24H28ClFN6O4S
